data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2697,2996,[CH3:18][O:19][C:20](=[O:21])[C:22]([C:23]#[N:24])=[NH+:25][C-:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[NH:25][C:22]2([C:20]([O:19][CH3:18])=[O:21])[C:23]#[N:24],water,298.15,32.636397100082114,-19.64482230642411
1973,2188,[CH3:11][O:12][C:13](=[O:14])[C-:15]([CH3:16])[O+:17]=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([C:13]([O:12][CH3:11])=[O:14])([CH3:16])[O:17][C:18]2([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,9.605538770383292,-50.5377255081802
1556,1722,[CH3:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[C-:20]([C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:20]([C:21]#[N:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:18]([CH3:19])[C:15]2([C:13]([CH3:12])=[O:14])[C:16]#[N:17],water,298.15,27.852279248694003,-20.01575870589853
1324,1453,[CH3:13][NH:14][C:15](=[O:16])[C:17]([CH3:18])=[N+:19]([CH3:20])[C-:21]([C:22]#[N:23])[C:24]#[N:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:21]([C:22]#[N:23])([C:24]#[N:25])[N:19]([CH3:20])[C:17]3([C:15]([NH:14][CH3:13])=[O:16])[CH3:18],water,298.15,22.04066492077928,-32.3581130412653
996,1085,[CH3:13][NH:14][C:15](=[O:16])[C:17]([C:18]([CH3:19])=[O:20])=[N+:21]([CH3:22])[O-:23].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[O:23][N:21]([CH3:22])[C:17]2([C:15]([NH:14][CH3:13])=[O:16])[C:18]([CH3:19])=[O:20],water,298.15,46.6053387966586,8.558013850465418
863,934,[CH2-:18][N+:19]#[C:20][C:21](=[O:22])[NH:23][CH3:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:20]([C:21](=[O:22])[NH:23][CH3:24])=[N:19][CH2:18]3,water,298.15,12.814027474495926,-69.54546835555655
931,1010,[CH3:13][C:14]#[N+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:16]([C:17]([CH3:18])=[O:19])([C:20](=[O:21])[O:22][CH3:23])[N:15]=[C:14]2[CH3:13],water,298.15,34.32530462955365,-13.821411021893336
864,935,[CH3:12][N-:13][NH+:14]=[C:15]([C:16](=[O:17])[NH:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([F:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([F:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:15]([C:16](=[O:17])[NH:18][CH3:19])([C:20](=[O:21])[O:22][CH3:23])[NH:14][N:13]3[CH3:12],water,298.15,25.958126917323906,-25.065894527636328
5038,5726,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][N-:16][N+:17]([CH3:18])=[C:19]([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[O:26][CH3:27]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:16]([CH3:15])[N:17]([CH3:18])[C:19]2([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,26.7920488479262,5.571055115063138
4545,5185,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)=[N+:22]([CH3:23])[NH-:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[NH:24][N:22]([CH3:23])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,31.52022182548181,-0.4100155670654156
4300,4919,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][N-:10][O+:11]=[C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:10]([CH3:9])[O:11][C:12]2([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,6.954401222123865,-39.304942954828704
